US08629286B2
A solution of methyl-{3-[4-((R)-methyl-1,2,3,4-tetrahydro-naphthalen-1-yl-carbamoyl)-thiazol-2-yl]-prop-2-ynyl}-carbamic acid tert-butyl ester (0.176 g, 0.4 mmol) in methanol (3 mL) was pumping through Pd/C cartridge using H-Cube apparatus (50° C., 80 bar, 1 mL/min.). The solvent was then evaporated under reduce pressure to give methyl-{3-[4-((R)-methyl-1,2,3,4-tetrahydro-naphthalen-1-yl-carbamoyl)-thiazol-2-yl]-propyl}-carbamic acid tert-butyl ester (0.133 g, 75%), which can be used in the next step without further purification. 1H-NMR (400 MHz, CDCl3): δ=7.54 (s, 1H (conformers)), 7.03-6.87 (m, 4H), 5.54-5.46 (m, 1H (conformers)), 3.12-2.98 (m, 2H), 2.83-2.71 (m, 2H (conformers)), 2.63 (s, 3H (conformers)), 2.61-2.51 (m, 5H), 2.04-1.56 (m, 6H), 1.20 (s, 9H (conformers)). MS: m/z=444 (M+1).

reactant | methyl-{3-[4-((R)-methyl-1,2,3,4-tetrahydro-naphthalen-1-yl-carbamoyl)-thiazol-2-yl]-prop-2-ynyl}-carbamic acid tert-butyl ester | 0.4 mmol, 0.176 g | C(C)(C)(C)OC(N(CC#CC=1SC=C(N1)C(N([C@@H]1CCCC2=CC=CC=C12)C)=O)C)=O | C24H29N3O3S
solvent | methanol | 3 mL | CO | CH4O
catalyst | Pd/C | [Pd] | Pd
product | methyl-{3-[4-((R)-methyl-1,2,3,4-tetrahydro-naphthalen-1-yl-carbamoyl)-thiazol-2-yl]-propyl}-carbamic acid tert-butyl ester | 0.133 g, 75% | C(C)(C)(C)OC(N(CCCC=1SC=C(N1)C(N([C@@H]1CCCC2=CC=CC=C12)C)=O)C)=O | C24H33N3O3S
